Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ who around 8 pm ___ had a couple of shots of whiskey and 
then had a mechanical fall hitting his face against the ground. 
HS+, -LOC, recalls the event. He was bleeding from his nose and 
reported pain on his forehead, nose and right shoulder. He was 
taken to ___ were imaging showed bifrontal 
parietal hemorrhages with associated contusions, no injuries to 
the C
spine or facial bones and a R dislocated shoulder (see below for 
reports). A laceration on his nose was repaired. He was 
transferred to ___. 

 
Past Medical History:
HTN
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

HR 80    BP 198/113    RR 16     SatO2 96% RA 
GCS 15
NAD
2 cm lac on the dorsum of the nose, stitched
Ecchymosis of the forehead
No crepitus on the face
No C, T, L or S spine, no step offs
RRR
CTA bil
No tenderness to palpation of the chest or back
Abdomen soft, non-tender, non-distended
FAST negative
Pelvis stable
L arm, bil legs: no deformity, no tenderness, motor and sensory
intact
R arm: deformity of the shoulder, limited abduction of the arm
due to pain, otherwise motor and sensory intact. 

Discharge Physical Exam:
VS: T: 98.6 PO BP: 155/75 HR: 63 RR: 18 O2: 99% RA 
GEN: A+Ox3, NAD
HEENT: Nasal laceration, approximated.
CV: RRR
PULM: Breathing comfortably on room air, no respiratory distress
ABD: soft, non-distended, non-tender to palpation
EXT: wwp, no edema b/l
 
Pertinent Results:
IMAGING:

___: GLENO-HUMERAL SHOULDER (W/ Y VIEW) RIGHT:

Anterior-inferior dislocation of the right shoulder.

___: CT UP EXT W/O C RIGHT:
  
1. Interval reduction of the previously seen anterior shoulder 
dislocation. 
2. Diffuse increased density in the surrounding musculature is 
consistent with intramuscular hematoma without an organized 
collection. 
3. No evidence of Bankart lesion. 
4. Moderate AC  and glenohumeral joints degenerative changes. 

___: SHOULDER (AP, NEUTRAL & AXILLARY) TRAUMA RIGHT:
Successful reduction of right glenohumeral joint dislocation as 
described.

LABS:

___ 01:00PM   WBC-8.3 RBC-4.30* HGB-14.0 HCT-40.2 MCV-94 
MCH-32.6* MCHC-34.8 RDW-14.4 RDWSD-48.7*
___ 01:00PM   PLT COUNT-189
___ 02:03AM   GLUCOSE-145* UREA N-13 CREAT-0.8 SODIUM-142 
POTASSIUM-4.7 CHLORIDE-99 TOTAL CO2-20* ANION GAP-23*
___ 02:03AM   ALT(SGPT)-21 AST(SGOT)-38 CK(CPK)-311 ALK 
PHOS-62 TOT BILI-0.4
___ 02:03AM   LIPASE-40
___ 02:03AM   cTropnT-0.02*
___ 02:03AM   CK-MB-5
___ 02:03AM   ALBUMIN-4.5 CALCIUM-9.1 PHOSPHATE-3.2 
MAGNESIUM-2.1
___ 02:03AM   ASA-NEG ETHANOL-62* ACETMNPHN-NEG 
tricyclic-NEG
___ 02:03AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:03AM   WBC-9.9 RBC-5.19 HGB-16.6 HCT-48.6 MCV-94 
MCH-32.0 MCHC-34.2 RDW-14.5 RDWSD-49.7*
___ 02:03AM   NEUTS-86.0* LYMPHS-10.8* MONOS-2.5* EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-8.47* AbsLymp-1.06* AbsMono-0.25 
AbsEos-0.01* AbsBaso-0.02
___ 02:03AM   PLT COUNT-209
___ 02:03AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:03AM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-30* 
GLUCOSE-100* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:03AM URINE  RBC-1 WBC-0 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 02:03AM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
Mr. ___ is a ___ who presented to ___ s/p mechanical fall 
with + headstrike, -LOC. He was initially taken to ___ 
___ were imaging showed bifrontal parietal hemorrhages with 
associated contusions, no injuries to the C
spine or facial bones and a R dislocated shoulder. A laceration 
on his nose was repaired and he was transferred to ___. 

Neurosurgery was consulted and recommended keppra 500 mg BID for 
7 days, recommended keeping SBP<160 and ultimately that 
anticoagulation may be resumed and that the patient may 
follow-up in the Traumatic Brain Injury Clinic as needed.  

Orthopedic Surgery was consulted for the right dislocated 
shoulder.  Under procedural sedation with 80Mg of propofol, the 
right shoulder was relocated and it was confirmed with post 
procedure imaging.  He remained NV intact after the relocation 
of joint.  It was recommended he wear a sling for comfort, 
continue ROM of the elbow and wrist to prevent stiffness and 
perform gentle pendulums of the right shoulder to prevent 
stiffness.  It was recommended he follow-up in orthopedics 
outpatient clinic in approximately 2 weeks. 

The patient remained alert and oriented throughout 
hospitalization.  Pain was managed with acetaminophen.  The 
patient remained stable from a cardiopulmonary standpoint; vital 
signs were routinely monitored. Good pulmonary toilet, early 
ambulation and incentive spirometry were encouraged throughout 
hospitalization. 
The patient tolerated a regular diet.  Intake and output were 
closely monitored
The patient's fever curves were closely watched for signs of 
infection, of which there were none. The patient's blood counts 
were closely watched for signs of bleeding, of which there were 
none. The patient received subcutaneous heparin and ___ dyne 
boots were used during this stay and was encouraged to get up 
and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  His nasal sutures were removed. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.

 
Medications on Admission:
Asprin  Dose:81mg daily   

amlodipine 5 mg tablet oral
1 tablet(s) Twice Daily
  
 clonidine 0.2 mg/24 hr weekly transdermal patch transdermal
1 patch weekly(s) , at bedtime
 
 hydralazine 50 mg tablet oral
1 tablet(s) Twice Daily

 metoprolol tartrate 25 mg tablet oral
1 tablet(s) Twice Daily
  
 lisinopril 40 mg tablet oral
1 tablet(s) Once Daily 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Docusate Sodium 100 mg PO BID 
hold for loose stool  
3.  LevETIRAcetam 500 mg PO BID Duration: 7 Days 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*7 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation   
5.  Senna 8.6 mg PO BID  
6.  amLODIPine 5 mg PO BID  
7.  Finasteride 5 mg PO DAILY  
8.  HydrALAZINE 50 mg PO Q12H  
9.  Hydrochlorothiazide 12.5 mg PO DAILY  
10.  Lisinopril 40 mg PO DAILY  
11.  Metoprolol Tartrate 25 mg PO BID  
12.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mechanical fall, with associated bifrontal hemorrhagic 
contusions, right dislocated shoulder and a repaired nasal 
laceration.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ 
from ___ after you sustained a traumatic brain 
injury and a right shoulder dislocation from a fall.  You also 
had a nose laceration which was repaired with sutures at 
___. The Neurosurgery service evaluated your head 
injuries, which were deemed stable, and you were started on a 7 
day course of a medication, called keppra (levetiracetam), to 
prevent seizures.   The Orthopedic Surgery service performed a 
right shoulder relocation under sedation.  It is recommended 
that you wear a sling for comfort to the right arm. You may move 
your right elbow and wrist to prevent stiffness and also perform 
gentle pendulum motions of your right shoulder to prevent 
stiffness.  You were admitted to the Trauma Surgery team for 
medical care during this admission.

You have worked with physical therapy and your pain is now 
better controlled.  You are now ready to be discharged home with 
home physical therapy.  Please note the following discharge 
instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

*Use your arm sling for comfort, stay ahead of the pain to allow 
progressive return to baseline function.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Orthopedic Surgery Department instructions:
- Sling for comfort. Continue range of motion of the right elbow 
and wrist to prevent stiffness. gentle pendulums of the right 
shoulder to prevent stiffness.

Traumatic Brain Injury Instructions:

Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:
• Persistent nausea or vomiting.
• Increasing confusion, drowsiness or any change in alertness.
• Loss of memory.
• Dizziness or fainting.
• Trouble walking or staggering.
• Worsening of headache or headache feels different.
• Trouble speaking or slurred speech.
• Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
• A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
• Weakness or numbness of an arm or leg.
• Stiff neck or fever.
• Blurry vision, double vision or other problems with your 
eyesight.
• Bleeding or clear liquid drainage from your ears or nose.
• Very sleepy (more than expected) or hard to wake up.
• Unusual sounds in the ear.
• Any new or increased symptoms

 
Followup Instructions:
___